US05250517
109 mg (0.38 mmol) of 3-(RS)-(1-naphthylmethyl)succinic acid 1-ethyl ester were dissolved in 6 ml of acetonitrile and 1 ml of dimethylformamide and, after the addition of 135 mg (0.35 mmol) of (S)-α-amino-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]imidazole-4-propionamide, 39 mg (0.38 mmol) of triethylamine and 144 mg (0.38 mmol) of HBTU, stirred at room temperature for 6 hours. Subsequently, the reaction solution was evaporated in a high vacuum and the residue was dissolved in 50 ml of ethyl acetate and washed 3 times with 10 ml of saturated sodium bicarbonate solution. The organic phase was dried over sodium sulfate and evaporated under reduced pressure, and the residue was chromatographed on silica gel with a 95:5 mixture of methylene chloride and methanol which contained 0.1% ammonium hydroxide, to obtain 103 mg (45%) of (RS)-β-[[(S)-1-[[(1S,2S, 4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]carbamoyl]-2-imidazol-4-ylethyl]-carbamoyl]-1-naphthylbutyric acid ethyl ester as a yellowish foam. MS: 594 (M-ethanol-water)+

reactant | 3-(RS)-(1-naphthylmethyl)succinic acid 1-ethyl ester | 0.38 mmol, 109 mg | C(C)OC(CC(C(=O)O)CC1=CC=CC2=CC=CC=C12)=O | C17H18O4
reactant | (S)-α-amino-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]imidazole-4-propionamide | 0.35 mmol, 135 mg | N[C@H](C(=O)N[C@H]([C@H](C[C@H](C=C)C(C)C)O)CC1CCCCC1)CC=1N=CNC1 | C22H38N4O2
reactant | triethylamine | 0.38 mmol, 39 mg | C(C)N(CC)CC | C6H15N
reactant | HBTU | 0.38 mmol, 144 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | (RS)-β-[[(S)-1-[[(1S,2S, 4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]carbamoyl]-2-imidazol-4-ylethyl]-carbamoyl]-1-naphthylbutyric acid ethyl ester | 103 mg, 45% | C(C)OC(C(C(C)C(N[C@@H](CC=1N=CNC1)C(N[C@H]([C@H](C[C@H](C=C)C(C)C)O)CC1CCCCC1)=O)=O)C1=CC=CC2=CC=CC=C12)=O | C39H54N4O5
